US08685969B2
3. 5-Fluoro-2-formylbenzoic acid
A mixture of 5-fluoro-2-(hydroxymethyl)benzoic acid (0.518 g, 3.04 mmol) and manganese(IV) oxide (3.71 g, 42.6 mmol) in tetrahydrofuran (25 mL) was stirred at room temperature for 16 hr. The insoluble material was removed by filtration through CELITE®. The filtrate was concentrated under vacuum to dryness. The residue was dissolved in CH2Cl2 (100 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (0.211 g, 1.255 mmol, 41.2% yield) as a white solid.

reactant | 5-fluoro-2-(hydroxymethyl)benzoic acid | 3.04 mmol, 0.518 g | FC=1C=CC(=C(C(=O)O)C1)CO | C8H7FO3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | manganese(IV) oxide | 42.6 mmol, 3.71 g | [O-2].[Mn+4].[O-2]
product | 5-Fluoro-2-formylbenzoic acid | 1.255 mmol, 0.211 g, 41.2% yield | FC=1C=CC(=C(C(=O)O)C1)C=O | C8H5FO3
